US09085585B2
Formalin (37% aqueous formaldehyde, 4 g, 49.2 mmol) was added drop-wise to 2-furan-2-yl-ethylamine (5.5 g, 43.3 mmol, neat) and the mixture was allowed to stir for 30 minutes at room temperature. The crude intermediate 1 was extracted with diethyl ether (3×80 mL). The diethyl ether extracts were combined, dried over sodium sulfate, filtered, and concentrated. DMF (35 mL) was saturated with hydrogen chloride gas by passing hydrogen chloride through the solution for one hour. The remaining oil was dissolved in DMF (10 mL) and added to the DMF/HCl solution. After mixing at room temperature for 3 hours, the DMF was removed under high vacuum. Methyl t-butyl ether was added and the traces of DMF were removed by extraction with water (100 mL) that had been adjusted to pH=11 with saturated sodium bicarbonate solution. The ether solution was dried over sodium sulfate, filtered, and concentrated. The remaining crude intermediate 4,5,6,7-tetrahydrofuro[3,2-c]pyridine (0.87 g, 7.1 mmol) in dichloromethane (50 mL) was added drop-wise to di-tert-butyldicarbonate (1.6 g, 7.4 mmol) in CH2Cl2 (50 mL) at room temperature. The reaction mixture was stirred at same temperature for 1.5 hours, monitored by TLC. The solvent was evaporated by reduced pressure and the crude product was purified by column chromatography (silica gel, ethyl acetate/heptane=1/9) to afford pure 6,7-dihydro-4H-furo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester (0.56 g, 35.4%) as a yellow oil. 1H NMR (Field: 300 MHz, Solvent: CDCl3/TMS) δ (ppm): 7.19 (s, 1H), 6.13 (d, 1H, J=1.5 Hz), 4.25 (s, 2H), 3.63 (m, 2H), 2.59 (d, m), 1.44 (s, 9H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 154.78, 146.85, 141.23, 108.19, 85.03, 79.82, 41.58, 40.05, 28.52, 23.90.

reactant | Formalin | 49.2 mmol, 4 g | C=O | CH2O
reactant | 2-furan-2-yl-ethylamine | 43.3 mmol, 5.5 g | O1C(=CC=C1)CCN | C6H9NO
reactant | 4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 7.1 mmol, 0.87 g | O1C=CC=2CNCCC21 | C7H9NO
reactant | di-tert-butyldicarbonate | 7.4 mmol, 1.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 6,7-dihydro-4H-furo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | 0.56 g, 35.4% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)OC=C2 | C12H17NO3
